US07981903B2
Filtrates containing 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-3,14-dihydro-7H-6I5-benzo[g]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7-one (generated above) were taken to a residue under reduced pressure, redissolved in tetrahydrofuran, and 2.0M methyl amine in tetrahydrofuran (5 mL) was added. The solution was stirred for 12 hours and all solids were evaporated under reduced pressure to generate crude 3-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-N-methyl-2-naphthalenecarboxamide of sufficient purity for direct use in the subsequent transformations. To a solution of 3-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-N-methyl-2-naphthalenecarboxamide (100 mg, 0.139 mmol) in MeOH/THF (1:1, 10 mL) was added sodium methoxide (113 mg, 2.087 mmol). The resulting solution was warmed to 80° C. for 45 minutes, cooled to room temperature, and poured into saturated aqueous NaCl (50 mL) and diluted with ethyl acetate (25 mL). The organic layer was dried over solid sodium sulfate, filtered, stripped onto celite, and purified by chromatography on SiO2 to give 3-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-methyl-2-naphthalenecarboxamide as a yellow solid (0.055 g); 1H NMR (400 MHz, DMSO-d6) δ ppm 11.42 (s, 1H), 11.20 (s, 1H), 9.22 (s, 1H), 8.89-9.00 (m, 1H), 8.58 (s, 1H), 8.26 (s, 1H), 7.78 (d, J=8.06 Hz, 1H), 7.66 (s, 1H), 7.46-7.54 (m, 1H), 7.40-7.46 (m, 1H), 7.34 (t, J=7.42 Hz, 1H), 6.98 (s, 1H), 6.90-6.95 (m, 1H), 6.28 (dd, J=3.02, 1.74 Hz, 1H), 4.16 (t, J=8.33 Hz, 2H), 3.74 (s, 3H), 3.16 (t, J=8.42 Hz, 2H), 2.97 (s, 2H), 2.85 (d, J=4.58 Hz, 3H), 2.00 (s, 6H). ESIMS (M+H)+=565.

reactant | methyl amine | 2.0M | CN | CH5N
reactant | 3-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-N-methyl-2-naphthalenecarboxamide | 0.139 mmol, 100 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC=2C(=CC1=CC=CC=C1C2)C(=O)NC)OC)C | C38H38N8O5S
reactant | sodium methoxide | 2.087 mmol, 113 mg | C[O-].[Na+]
reactant | NaCl | 50 mL | [Na+].[Cl-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | MeOH THF | 10 mL | CO.C1CCOC1
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-methyl-2-naphthalenecarboxamide | 0.055 g | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC=2C(=CC1=CC=CC=C1C2)C(=O)NC)OC)C | C31H32N8O3
